US06057357
Benzofuran-2-yl-acetic acid methyl ester
A solution of 2-coumaranone (5.0 g, 37 mmol) and methyl(triphenylphosphoranylideneacetate) (13.5 g, 40 mmol) in toluene (70 mL) was heated to reflux for 25 hours. More toluene was added (10 mL), and after a further 5 hours, more methyl(triphenylphosphoranylideneacetate) (0.5 g, 1.5 mmol). After another 19 hours, a further 1.0 g (3.0 mmol) was added, and after a further 21 hours, the solvent was removed in vacuo. Column chromatography (heptane:ethyl acetate 4:1) gave the product as a brown oil, 28 mmol, 75%.

reactant | 2-coumaranone | 37 mmol, 5.0 g | O1C(CC2=CC=CC=C12)=O | C8H6O2
reactant | methyl(triphenylphosphoranylideneacetate) | 40 mmol, 13.5 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | methyl(triphenylphosphoranylideneacetate) | 1.5 mmol, 0.5 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | Benzofuran-2-yl-acetic acid methyl ester | COC(CC=1OC2=C(C1)C=CC=C2)=O | C11H10O3
